US06087379
1-(α-Cyclopropylcarbonyl-2-fluorobenzyl)-4-hydroxypiperidine
In 30 ml of dimethylformamide (DMF), 3.13 g (31 mmol) of 4-hydroxypiperidine were dissolved, followed by the addition of 7.94 g (31 mmol) of α-cyclopropylcarbonyl-2-fluorobenzylbromide and 4.7 g (34 mmol) of potassium carbonate. The resulting mixture was stirred at room temperature for 2 hours. Water was added to the reaction mixture, followed by extraction with toluene. The resulting organic layer was dried over anhydrous sodium sulfate. The solvent was concentrated by evaporation under reduced pressure. The residue was purified by chromatography on a silica gel column (eluting solvent: chloroform/methanol=19/1), whereby 8.00 g of the title compound were obtained as a brown oil (yield: 93%).

reactant | 4-hydroxypiperidine | 31 mmol, 3.13 g | OC1CCNCC1 | C5H11NO
reactant | α-cyclopropylcarbonyl-2-fluorobenzylbromide | 31 mmol, 7.94 g | C1(CC1)C(=O)C(C1=C(C=CC=C1)F)Br | C11H10BrFO
reactant | potassium carbonate | 34 mmol, 4.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(α-Cyclopropylcarbonyl-2-fluorobenzyl)-4-hydroxypiperidine | 8.00 g | C1(CC1)C(=O)C(C1=C(C=CC=C1)F)N1CCC(CC1)O | C16H20FNO2
